US07585885B2
5-Hydroxymethyl-N-methyl-N-propyl-isophthalamic acid
Mix 5-hydroxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (1.0 g, 3.6 mmol), 1 N NaOH (25 mL) in THF (5 mL). Stir at room temperature overnight. Wash with diethyl ether (2×20 mL). Acidify the aqueous layer with 5 N HCl to about pH=2. Extract with ethyl acetate (2×20 mL), concentrate and purify (silica gel chromatography eluting with 1% acetic acid in ethyl acetate and hexanes) to give the title compound (0.80 g, 89%).

reactant | 5-hydroxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 3.6 mmol, 1.0 g | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)CO)=O | C15H21NO4
reactant | NaOH | 1 N, 25 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Hydroxymethyl-N-methyl-N-propyl-isophthalamic acid | 0.80 g, 89% | OCC=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C | C13H17NO4
